US04649142
To a solution of 1,3-dimethyl-6-(4-methoxyphenyl)-1,2,3,4-tetrahydropyrimidine-2,4-dione (4.4 g) in acetic acid (22 ml) were added conc.sulfuric acid (9 ml) and conc. nitric acid (18 ml) under ice-cooling. The mixture was stirred at 5°-10° C. for 1.5 hours and at ambient temperature further for 2 hours. The mixture was poured into ice-water, and stirred. After the aqueous mixture was neutralized with aqueous sodium hydroxide, the resultant precipitates were filtered. The precipitates were washed with water and dried in air to give 1,3-dimethyl-6-(4-methoxy-3-nitrophenyl)-1,2,3,4-tetrahydropyrimidine-2,4-dione (3.67 g).

reactant | 1,3-dimethyl-6-(4-methoxyphenyl)-1,2,3,4-tetrahydropyrimidine-2,4-dione | 4.4 g | CN1C(N(C(C=C1C1=CC=C(C=C1)OC)=O)C)=O | C13H14N2O3
reactant | sulfuric acid | 9 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 18 ml | [N+](=O)(O)[O-] | HNO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 22 ml | C(C)(=O)O | C2H4O2
product | 1,3-dimethyl-6-(4-methoxy-3-nitrophenyl)-1,2,3,4-tetrahydropyrimidine-2,4-dione | 3.67 g | CN1C(N(C(C=C1C1=CC(=C(C=C1)OC)[N+](=O)[O-])=O)C)=O | C13H13N3O5
